US04598067
1.25 g N-(pyroglutamyl)-N-benzylglycine ethylester is dissolved in 5 ml methanol, treated with 3 ml 2N NaOH, and stirred for 5 min., after which the solution is concentrated to a small volume by removal of solvents. The residue is then dissolved in 10 ml H2O, acidified to pH2, extracted several times with ethyl acetate, and dried over anhydrous MgSO4. Following evaporation of solvent, the residue is chromatographed on silica gel (55 g) using chloroform/methanol/acetic acid (4:1:0.1). The first fractions give 0.36 g N-(pyroglutamyl)-N-benzylglycine as a white solid.

reactant | N-(pyroglutamyl)-N-benzylglycine ethylester | 1.25 g | C(C)OC(CN(CC1=CC=CC=C1)C([C@H]1NC(CC1)=O)=O)=O | C16H20N2O4
reactant | NaOH | 2N, 3 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | N-(pyroglutamyl)-N-benzylglycine | 0.36 g | N1[C@@H](CCC1=O)C(=O)N(CC(=O)O)CC1=CC=CC=C1 | C14H16N2O4
